US04400505
Preparation of 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4-allyloxy-6-t-octylamino-1,3,5-triazine)
A stirred mixture of 4,4'(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) (10.0 grams; 0.025 mole), 2-allyloxy-4-chloro-6-t-octylamino-1,3,5-triazine (15.1 grams; 0.05 mole), and powdered sodium hydroxide (2.0 grams; 0.05 mole) in xylene (150 mls) is heated at reflux for 24 hours while removing by-product water by means of a trap. The reaction mixture is filtered while hot to remove insolubles. Upon cooling the filtrate, a white crystalline solid precipitates. The solid is recovered by filtration and dried to obtain 15.7 grams of the desired product, mp 210°-212° C.

reactant | 4,4'(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) | 0.025 mole, 10.0 grams | N(CCCCCCNC1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C24H50N4
reactant | 2-allyloxy-4-chloro-6-t-octylamino-1,3,5-triazine | 0.05 mole, 15.1 grams | C(C=C)OC1=NC(=NC(=N1)Cl)NC(C)(C)CC(C)(C)C | C14H23ClN4O
reactant | sodium hydroxide | 0.05 mole, 2.0 grams | [OH-].[Na+]
solvent | xylene | 150 mls | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4-allyloxy-6-t-octylamino-1,3,5-triazine) | 15.7 grams | CC1(NC(CC(C1)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)OCC=C)NC(C)(C)CC(C)(C)C)C1=NC(=NC(=N1)OCC=C)NC(C)(C)CC(C)(C)C)(C)C)C | C52H94N12O2
